US06258812B1
1-(4-Ethoxyanilino)-4-(4-pyridylmethyl)phthalazine
A mixture of 0.3 g (1.173 mmol) 1-chloro-4-(4-pyridylmethyl)phthalazine (for preparation see German Auslegeschrift no. 1 061 788 [published 23.07.1959]), and 0.483 g (3.52 mmol) 4-ethoxyaniline is heated for 30 min at 90° C. The cooled reaction mixture is distributed with thorough stirring between a dichloromethane/methanol mixture (18:1) and saturated aqueous sodium carbonate solution. The organic phase washed with water and brine is dried over anhydrous sodium sulfate and evaporated under vacuum. Title compound is obtained after recrystallization of the residue from acetate/methanol and acetonitrile; m.p. 223-224° C.; ESI-MS: (M+H)+=357.

reactant | 1-chloro-4-(4-pyridylmethyl)phthalazine | 1.173 mmol, 0.3 g | ClC1=NN=C(C2=CC=CC=C12)CC1=CC=NC=C1 | C14H10ClN3
reactant | 4-ethoxyaniline | 3.52 mmol, 0.483 g | C(C)OC1=CC=C(N)C=C1 | C8H11NO
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | dichloromethane methanol | ClCCl.CO
product | 1-(4-Ethoxyanilino)-4-(4-pyridylmethyl)phthalazine | C(C)OC1=CC=C(NC2=NN=C(C3=CC=CC=C23)CC2=CC=NC=C2)C=C1 | C22H20N4O
